US07767677B2
Synthesis of [4-(6-phenylpyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone
Following the procedure as described in Example 5, making variations only as required to use 3-phenyl-6-piperazin-1-ylpyridazine in place of 3-piperazin-1-yl-6-pyridin-2-ylpyridazine to react with 2-trifluoromethylbenzoyl chloride, the title compound was obtained as an off-white solid in 67% yield (0.312 g). 1H NMR (300 MHz, CDCl3) δ 7.97-7.95 (m, 2H), 7.73-7.71 (m, 2H), 7.63-7.51 (m, 2H), 7.47-7.39 (m, 3H), 7.34 (d, J=7.3 Hz, 1H), 7.06 (d, J=9.9 Hz, 1H), 4.10-3.67 (m, 6H), 3.35-3.32 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.6, 158.2, 151.7, 135.9, 134.3, 132.4, 129.5, 129.2, 128.9, 127.3, 126.9, 126.1, 114.2, 46.5, 45.2, 44.9, 41.3. MS (ES+) m/z 413.0 (M+1).

reactant | 3-phenyl-6-piperazin-1-ylpyridazine | C1(=CC=CC=C1)C=1N=NC(=CC1)N1CCNCC1 | C14H16N4
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | [4-(6-phenylpyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 67% yield | C1(=CC=CC=C1)C1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C22H19F3N4O
